US09381191B2
1.56 g (3.86 mmol) of 2-(((triisopropylsilyl)oxy)methyl)imidazo[1,2-a]pyridine were solubilized in 30 ml of tetrahydrofurane with magnetic stirring, to this solution were added 4.24 ml (4.24 mmol) of a 1M solution of tetrabutylammonium fluoride in tetrahydrofurane. The mixture was stirred at r.t. for 1 hour before being concentrated in vacuo. The crude residue was directly purified by flash chromatography on a silica gel cartridge (eluent: ethyl acetate 100%). 0.83 g (yield=86%) of (3-(phenylethynyl)imidazo[1,2-a]pyridin-2-yl)methanol were obtained as an orangey solid. LC-MS: m/z=249 (MH+); UV purity at 254 nm=99%. 1H NMR (300 MHz, DMSO) δ 8.59 (dt, J=6.7, 1.1 Hz, 1H), 7.77-7.56 (m, 3H), 7.56-7.32 (m, 4H), 7.11 (td, J=6.8, 1.1 Hz, 1H), 5.33 (t, J=5.9 Hz, 1H), 4.67 (d, J=5.9 Hz, 2H).

reactant | 2-(((triisopropylsilyl)oxy)methyl)imidazo[1,2-a]pyridine | 3.86 mmol, 1.56 g | C(C)(C)[Si](OCC=1N=C2N(C=CC=C2)C1)(C(C)C)C(C)C | C17H28N2OSi
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | tetrahydrofurane | 30 ml | O1CCCC1 | C4H8O
product | (3-(phenylethynyl)imidazo[1,2-a]pyridin-2-yl)methanol | 0.83 g, yield=86% | C1(=CC=CC=C1)C#CC1=C(N=C2N1C=CC=C2)CO | C16H12N2O
